US07473694B2
Synthesis of tert-butyl (S)-3-(3-iodo-8-[tert-butoxycarbonyl-{4-(2-methoxyethoxy)phenyl}amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl)piperidine-1-carboxylate
To a THF solution (1.5 mL) of tert-butyl (S)-3-(8-[tert-butoxycarbonyl-{4-(2-methoxyethoxy)phenyl}amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate (110.6 mg, 0.182 mmol), N-iodosuccinimide (49.1 mg, 0.218 mmol) was added at room temperature and the mixture was stirred for 3 hr. After the reaction, the reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and then brine and dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was removed under reduced pressure and the residue was purified with column chromatography (30% ethyl acetate-hexane) to obtain the title compound (118.9 mg).

reactant | tert-butyl (S)-3-(8-[tert-butoxycarbonyl-{4-(2-methoxyethoxy)phenyl}amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate | 0.182 mmol, 110.6 mg | C(C)(C)(C)OC(=O)N(C1=C2CCN(C2=NC2=CC=NN12)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OCCOC | C32H44N6O6
reactant | N-iodosuccinimide | 0.218 mmol, 49.1 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | tert-butyl (S)-3-(3-iodo-8-[tert-butoxycarbonyl-{4-(2-methoxyethoxy)phenyl}amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl)piperidine-1-carboxylate | 118.9 mg | IC=1C=NN2C(=C3CCN(C3=NC12)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)N(C1=CC=C(C=C1)OCCOC)C(=O)OC(C)(C)C | C32H43IN6O6
